US08026370B2
3-butoxy propan-1-ol
Sodium metal (2.13 g) was added by small portions to 1,3-propanediol (15.75 g) and 1-bromobutane (10.3 g) by reference to non-patent reference [J. Am. Chem. Soc. 249 (1939)]. After the addition, the mixture was stirred at 40° C. for 1 hr and further stirred at 60° C. for 1 hr. The precipitated inorganic compound was filtered off, and the filtrate was distilled away under reduced pressure to give the title compound (3.15 g) as a colorless oil.

reactant | Sodium | 2.13 g | [Na] | Na
reactant | 1,3-propanediol | 15.75 g | C(CCO)O | C3H8O2
reactant | 1-bromobutane | 10.3 g | BrCCCC | C4H9Br
product | 3-butoxy propan-1-ol | 3.15 g | C(CCC)OCCCO | C7H16O2
